US05292767
trans-2-benzoylthiomethyl-4-ethoxycarbonyltetrahydrothiophene (compound No. 23-1)
To a stirred solution of trans-4-ethoxycarbonyl-2-mercaptomethyltetrahydrothiophene (compound No. 15-1, 60 mg) and triethylamine (42 μl) in methylene chloride (2 ml), benzoyl chloride (43 mg) dissolved in methylene chloride (1 ml) was added under ice-cooling. The mixture was stirred for 10 minutes and concentrated in vacuo. 0.1N hydrochloric acid was added to the residue and extracted with diethylether. The organic layer was washed with aqueous sodium bicarbonate solution and saturated sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated in vacuo. The oily residue was purified by a silica gel column chromatography to give 77 mg (86%) of the titled compound (compound No. 23-1).

reactant | trans-4-ethoxycarbonyl-2-mercaptomethyltetrahydrothiophene | C(C)OC(=O)[C@H]1C[C@@H](SC1)CS | C8H14O2S2
reactant | triethylamine | 42 μl | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 43 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | trans-2-benzoylthiomethyl-4-ethoxycarbonyltetrahydrothiophene | 77 mg, 86% | C(C1=CC=CC=C1)(=O)SC[C@@H]1SC[C@H](C1)C(=O)OCC | C15H18O3S2
